US04839376
Nicotinic acid hydrazide (18 g) was added in small portions with ice cooling to 22 ml concentrated hydrochloric acid, and 30 ml of aqueous solution of 18 g sodium nitrite was then added dropwise while maintaining the temperature at 0° C. or lower. The mixture was stirred at 0° C. for 15 minutes and extracted with ether, the extract was washed with an aqueous solution of sodium bicarbonate and dried over anhydrous sodium sulfate, and the solvent was distilled off from the dried solution, giving 16 g of nicotinic acid azide.

reactant | Nicotinic acid hydrazide | 18 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | hydrochloric acid | 22 ml | Cl | ClH
reactant | sodium nitrite | 18 g | N(=O)[O-].[Na+]
product | nicotinic acid azide | 16 g | C(C1=CN=CC=C1)(=O)N=[N+]=[N-] | C6H4N4O
